US06180027B2
A mixture of 66.4 g (193.7 mmol) of methoxymethyltriphenyl phosphonium chloride and 600 ml of THF was cooled to −50° C. under a gas stream of nitrogen. To the mixture, 20.1 g (179.1 mmol) of t-BuOK was added and stirred for 1 hour. To the mixture, a solution of 37.0 g (148.9 mmol) of trans-4-(trans-4-(3-_butenyl)cyclohexyl)cyclohexane carbaldehyde in 400 ml of THF was added dropwise with maintaining the temperature below −50° C. After dropwise addition, the reaction temperature was increased gradually to the room temperature, and stirring was carried out further for 5 hours. The solvent was distilled off under a decresed pressure, 250 ml of water was added and the mixture was extracted with 300 ml of toluene. The organic layer was washed with 200 ml of water for three times and dried with anhydrous magnesium sulphate. The solvent was distilled off under a decreased pressure, and the residue was subjected to silica gel column chromatography (eluent: a mixed solvent of toluene/heptane=3/7), to obtain 16.1 g of crude 1-(2-methoxyethenyl)-trans-4- (trans-4-(3-butenyl) cyclohexyl) cyclohexane.

reactant | methoxymethyltriphenyl phosphonium chloride | 193.7 mmol, 66.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 179.1 mmol, 20.1 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(trans-4-(3-_butenyl)cyclohexyl)cyclohexane carbaldehyde | 148.9 mmol, 37.0 g | C(CC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C17H28O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 1-(2-methoxyethenyl)-trans-4- (trans-4-(3-butenyl) cyclohexyl) cyclohexane | 16.1 g | COC=C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=C | C19H32O
